US04597902
N-[2-[(3,4-Dichlorophenyl)thio]ethyl]-2-propanamine, hydrochloride
A solution of 151.46 g (0.548 mole) of methane-sulfonic acid [2-[(3,4-dichlorophenyl)thio]ethyl]ester in 100 ml of isopropylamine was heated overnight in a bomb at 100° C. The isopropylamine was removed in a rotary evaporator and the residue partitioned between chloroform and 5% sodium hydroxide. The chloroform was removed by rotary evaporator to give an oil, the free base of the title compound. The oil was dissolved in methanol and converted to the hydrochloride salt with ethereal hydrogen chloride. Recrystallization of the salt from methanol-diethyl ether gave 101.53 g (61.6%) of white crystalline product, m.p. 132°-133.5° C.

reactant | methane-sulfonic acid [2-[(3,4-dichlorophenyl)thio]ethyl]ester | 0.548 mole, 151.46 g | ClC=1C=C(C=CC1Cl)SCCOS(=O)(=O)C | C9H10Cl2O3S2
reactant | isopropylamine | 100 ml | C(C)(C)N | C3H9N
product | N-[2-[(3,4-Dichlorophenyl)thio]ethyl]-2-propanamine, hydrochloride | Cl.ClC=1C=C(C=CC1Cl)SCCNC(C)C | InChI=1S/C11H15Cl2NS.ClH/c1-8(2)14-5-6-15-9-3-4-10(12)11(13)7-9;/h3-4,7-8,14H,5-6H2,1-2H3;1H
